US05626791
5-{5-[2-(4-Hexylphenyl)ethyl]-1,3-dioxan-2-yl}benzo[1,3]dioxole
By reaction of benzo[1,3]dioxole-5-carbaldehyde with 2-[2-(4-hexylphenyl)ethyl]propane-1,3-diol with acid catalysis on a water separator.

reactant | benzo[1,3]dioxole-5-carbaldehyde | O1COC2=C1C=CC(=C2)C=O | C8H6O3
reactant | 2-[2-(4-hexylphenyl)ethyl]propane-1,3-diol | C(CCCCC)C1=CC=C(C=C1)CCC(CO)CO | C17H28O2
solvent | water | O | H2O
product | 5-{5-[2-(4-Hexylphenyl)ethyl]-1,3-dioxan-2-yl}benzo[1,3]dioxole | C(CCCCC)C1=CC=C(C=C1)CCC1COC(OC1)C1=CC2=C(OCO2)C=C1 | C25H32O4
